US06310099B1
A solution of 261.1 g (2.0 mol) of 1-chloro-3-fluorobenzene in 2000 ml of dry tetrahydrofuran under nitrogen is cooled to −78°. To the solution is added 960 ml (2.4 mol) of 2.5 M n-butyllithium in hexanes over a period of 40 minutes. After stirring for 2.5 hours, a slurry of 155 ml of bromine cooled to −78° is added over 30 minutes and the mixture is stirred for 40 minutes before warming to −10°. The reaction is quenched with an aqueous solution of 151.3 g (1.2 mol) of sodium sulfite and 16.0 g (0.4 mol) of sodium hydroxide in 500 ml of water. The organic layer is separated, the solvents are removed at ambient pressure, and the product is distilled at 92-96° (20 mm Hg) to obtain 2-bromo-3-fluoro-chlorobenzene as a colorless oil.

reactant | 1-chloro-3-fluorobenzene | 2.0 mol, 261.1 g | ClC1=CC(=CC=C1)F | C6H4ClF
reactant | n-butyllithium | 2.4 mol, 2.5 M, 960 ml | C(CCC)[Li]
reactant | bromine | 155 ml | BrBr | Br2
reactant | sodium sulfite | 1.2 mol, 151.3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 0.4 mol, 16.0 g | [OH-].[Na+]
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | 2-bromo-3-fluoro-chlorobenzene | BrC1=C(C=CC=C1F)Cl | C6H3BrClF
